US08877782B2
3-({6-[3-(4-Chloro-phenyl)-isoxazol-4-ylmethoxy]-pyridine-3-carbonyl}-amino)-azetidine-1-carboxylic acid tert-butyl ester
As described for example 346b, 6-[3-(4-chloro-phenyl)-isoxazol-4-ylmethoxy]-nicotinic acid (200 mg, 0.6 mmol) was converted, using 3-amino-1-N-Boc-azetidine instead of ethanolamine, to the title compound (200 mg, 68%) which was obtained as a colourless gum. MS: m/e=483.1 [M−H]−.

reactant | 6-[3-(4-chloro-phenyl)-isoxazol-4-ylmethoxy]-nicotinic acid | 0.6 mmol, 200 mg | ClC1=CC=C(C=C1)C1=NOC=C1COC1=NC=C(C(=O)O)C=C1 | C16H11ClN2O4
reactant | 3-amino-1-N-Boc-azetidine | NC1CN(C1)C(=O)OC(C)(C)C | C8H16N2O2
product | 3-({6-[3-(4-Chloro-phenyl)-isoxazol-4-ylmethoxy]-pyridine-3-carbonyl}-amino)-azetidine-1-carboxylic acid tert-butyl ester | 200 mg, 68% | C(C)(C)(C)OC(=O)N1CC(C1)NC(=O)C=1C=NC(=CC1)OCC=1C(=NOC1)C1=CC=C(C=C1)Cl | C24H25ClN4O5
